Voltage Controlled Sources

Vsrc in gnd SIN(0 5.0 1kHz)

* VCCS - voltage controlled current source with load
Gvccs ctrl gnd in gnd 20
Rvccs ctrl gnd 1

* VCVS - voltage controlled voltage source
Evcvs out gnd ctrl gnd -0.05

.control
  tran 1us 5ms  
  plot v(in) v(ctrl) v(out)
.endc
